US06552069B1
Starting with 1-iodo-3,3,4,4,5,5,6,6,6-nonafluorohexane, diethyl malonate and 8-iodooct-1-ene, the analogous procedure as shown in Example 3, 4 or 5 was repeated to give ethyl 2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-decenoate.

reactant | 1-iodo-3,3,4,4,5,5,6,6,6-nonafluorohexane | ICCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C6H4F9I
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 8-iodooct-1-ene | ICCCCCCC=C | C8H15I
product | ethyl 2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-decenoate | FC(CCC(C(=O)OCC)CCCCCCC=C)(C(C(C(F)(F)F)(F)F)(F)F)F | C18H25F9O2
